US08609644B2
6(E)-Allyloxyiminoandrostane-3,17-dione (II-aw)
The title compound II-aw was prepared in 70% yield from 3,3:17,17-bis(ethylendioxy)-6(E)-allyloxyiminoandrostane by the procedure described above for the preparation of 6α-cyanoandrostane-3,17-dione (II-ac, Prepn. 3). The combined organic extracts were washed with H2O, dried over Na2SO4 and evaporated to dryness. 1H-NMR (300 MHz, acetone-d6, ppm from TMS): δ 5.99 (1H, m), 5.25 (1H, m), 5.14 (1H, m), 4.52 (2H, m), 4.42 (1H, dd), 2.68-1.15 (19H, m), 1.01 (3H, s), 0.88 (3H, s).

reactant | 17,17-bis(ethylendioxy)-6(E)-allyloxyiminoandrostane | C1OC23[C@]4(C)[C@@H](CC2(OCCO3)OC1)[C@@H]1C\C(\C3CCCC[C@]3(C)[C@H]1CC4)=N/OCC=C | C26H39NO5
reactant | 6α-cyanoandrostane-3,17-dione | C(#N)[C@H]1C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C20H27NO2
product | 6(E)-Allyloxyiminoandrostane-3,17-dione | 70% yield | C(C=C)O\N=C\1/C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC12)=O)C)=O | C22H31NO3
